US08067621B2
To a solution of allylsulfone from Step 3 (1.78 g, 3.87 mmol) in DCM (40 mL) was added methanesulfonyl chloride (480 uL, 6.20 mmol) followed by triethylamine (730 uL, 5.2 mmol) and the reaction was stirred overnight at RT. Workup with diluted HCl and DCM afforded 2.46 g of mesylate intermediate. This mesylate intermediate (2.46 g) in THF (40 mL) was treated slowly with tBuOK 1N in THF (10 mL, 10 mmol) and the reaction was stirred 35 min at RT then diluted with water, extracted with AcOEt and DCM, dried and concentrated. The residue was purified by flash-chromatography over silica gel (eluted with Hexanes/AcOEt 95:5 to 60:40) to give 1.50 g (88%) of allyl pyrane.

reactant | mesylate | 2.46 g | S(C)(=O)(=O)[O-]
reactant | tBuOK | 1N | C(C)(C)(C)O[K]
reactant | THF | 40 mL | C1CCOC1 | C4H8O
reactant | THF | 10 mmol, 10 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | allyl pyrane | 1.50 g, 88% | C(C=C)C1OC=CC=C1 | C8H10O
